

.subckt MIC4420 4  3   9   2 
*               In Out Vcc Gnd
Rin 4 Vind 2k
C1 4 2 6P
D2 2 Vind DN 
D3 4 9 DN 
RT 4 2 10MEG

Vsctl 13 0   5
XSctl 13 VindH Vind 2 SWhyste PARAMS: VT=1.25 VH=.15 RON=1 ROFF=1G
Rsctl VindH 2 1MEG



I2 9 2   80u Load
R2 9 2 750k
I1 9 8   330U Load
R4 9 8 175k
D4 8 9 DN 
cpara 8 2 100f
.MODEL DN D Vfwd=0.6 Ron=10m epsilon=100m Roff=1g
BLin 12 2 V=IF ( V(VindH) > 2 , 5 , 0 ) 
Rind 12 10 100 
Cind 10 11 215p 
Vinput 11 2
Bind 10 2 i= IF ( 7.5-V(9) > 0 , 0.33*I(Vinput)*(7.5-V(9)) , 0 ) 
XSinput 8 6 10 2 SWhyste PARAMS: VT=1.45 VH=.65 RON=1 ROFF=1G
Rinput 6 2 6k

XA1 VindH 16 ONESHOTA1 PARAMS: DELAY=473n

Bout 7 3 V=IF ( V(8,2) < 0.5*V(9,2) , V(9,2) , IF ( V(16) > 0.5 , V(9,2) , -V(9,2) ))
Rout 1 7 100 
bVS 99 0 V=IF ( V(9)**2/5.625 < 1 , 1 , V(9)**2/5.625 )
XCout 99 0 98     1 2 yx
*     Ctl  Ref Cap+ -
Cref 98 0 1p  

C2 3 2 50p

M4 9 1 3 3 _M4_mod L=1U W=1.84U 
M5 2 1 3 3 _M5_mod L=1U W=3.366U 
.MODEL _M5_mod PMOS KP=50m RD=1 VTO=-2.3
.MODEL _M4_mod NMOS KP=60m RD=1.6 VTO=1.5
.ENDS
*$
.subckt MIC4429 4  3   9   2 
*               In Out Vcc Gnd
Rin 4 Vind 2k
C1 4 2 6P
D2 2 Vind DN 
D3 4 9 DN 
RT 4 2 10MEG

Vsctl 13 0   5
XSctl 13 VindH Vind 2 SWhyste PARAMS: VT=1.25 VH=.15 RON=1 ROFF=1G
Rsctl VindH 2 1MEG

I2 9 2   80u Load
R2 9 2 750k
I1 9 8   330U
R4 9 8 175k
D4 8 9 DN 
cpara 8 2 100f
.MODEL DN D Vfwd=0.6 Ron=10m epsilon=100m Roff=1g
EBLin 12 2 Value={ IF ( V(VindH) > 2 , 5 , 0 ) } 
Rind 12 10 100 
Cind 10 11 215p 
Vinput 11 2
Bind 10 2 i=IF ( 7.5-V(9) > 0 , 0.33*I(Vinput)*(7.5-V(9)) , 0 )
XSinput 8 6 10 2 SWhyste PARAMS: VT=1.45 VH=.65 RON=1 ROFF=1G
Rinput 6 2 6k

XA1 VindH 16 ONESHOTA1 PARAMS: DELAY=510n

EBout 7 3 Value={ IF ( V(8,2) < 0.5*V(9,2) , -V(9,2) , IF ( V(16) > 0.5 , -V(9,2) , V(9,2) )) }
Rout 1 7 100 
EVS 99 0 Value={ IF ( V(9)**2/5.625 < 1 , 1 , V(9)**2/5.625 ) }
XCout 99 0 98     1 2 yx
*     Ctl  Ref Cap+ -
Cref 98 0 1p  
C2 3 2 50p
M4 9 1 3 3 _M4_mod L=1U W=1.84U 
M5 2 1 3 3 _M5_mod L=1U W=3.366U 
.MODEL _M5_mod PMOS KP=50m RD=1 VTO=-2.3
.MODEL _M4_mod NMOS KP=60m RD=1.6 VTO=1.5
.ENDS
*$
.subckt MIC4421 4  3   9   2 
*               In Out Vcc Gnd
Rin 4 Vind 2k
C1 4 2 6P
D2 2 Vind DN 
D3 4 9 DN 
RT 4 2 10MEG

Vsctl 13 0   5
XSctl 13 VindH Vind 2 SWhyste PARAMS: VT=1.2 VH=.1 RON=1 ROFF=1G
Rsctl VindH 2 1MEG

I2 9 2   50u Load
R2 9 2 600k
I1 9 8   215U Load
R4 9 8 150k
D4 8 9 DN 
cpara 8 2 1000f
.MODEL DN D Vfwd=0.6 Ron=10m epsilon=100m Roff=1g
BLin 2 12 i=IF ( V(VindH) > 2 , 5 , 0 ) Rpar=1 cpar=1n 
Rind 12 10 100 
Cind 10 11 85p 
Vinput 11 2
Bind 10 2 i=IF ( 13.25-V(9) > 0 , 0.3*I(Vinput)*(13.25-V(9)) , 0 ) rpar=1 cpar=10n
XSinput 8 6 10 2 SWhyste PARAMS: VT=1.9 VH=.65 RON=1 ROFF=1G
Rinput 6 2 6k

XA1 VindH 16 ONESHOTA1 PARAMS: DELAY=510n

Bout 7 3 V= IF ( V(8,2) < 0.5*V(9,2) , -V(9,2) , IF ( V(16) > 0.5 , -V(9,2) , V(9,2) )) 
Rout 1 7 550 

BVS 0 99 i=IF ( V(9)-4 < 1 , 1 , V(9)-4 ) rpar=1 cpar=100n ic=2
XCout 99 0 98     1 2 yx
*     Ctl  Ref Cap+ -
Cref 98 0 1p  
C2 3 2 1000p
M4 9 1 3 3 _M4_mod L=1U W=9.88U 
M5 2 1 3 3 _M5_mod L=1U W=7.296U 
.MODEL _M5_mod PMOS KP=67m RD=.655 VTO=-1.838
.MODEL _M4_mod NMOS KP=35m RD=.428 VTO=1.283
.ENDS
*$
.subckt MIC4422 4  3   9   2 
*               In Out Vcc Gnd
Rin 4 Vind 2k
C1 4 2 6P
D2 2 Vind DN 
D3 4 9 DN 
RT 4 2 10MEG

Vsctl 13 0   5
XSctl 13 VindH Vind 2 SWhyste PARAMS: VT=1.2 VH=.1 RON=1 ROFF=1G
Rsctl VindH 2 1MEG

I2 9 2   50u Load
R2 9 2 600k
I1 9 8   215U 
R4 9 8 150k
D4 8 9 DN 
cpara 8 2 100f
.MODEL DN D Vfwd=0.6 Ron=10m epsilon=100m Roff=1g
EBLin 12 2 Value={ IF ( V(VindH) > 2 , 5 , 0 ) } 
Rind 12 10 100 
Cind 10 11 85p 
Vinput 11 2
GBind 10 2 Value={ IF ( 13.25-V(9) > 0 , 0.3*I(Vinput)*(13.25-V(9)) , 0 ) }
XSinput 8 6 10 2 SWhyste PARAMS: VT=1.9 VH=.65 RON=1 ROFF=1G
Rinput 6 2 6k

XA1 VindH 16 ONESHOTA1 PARAMS: DELAY=473n

EBout 7 3 Value={ IF ( V(8,2) < 0.5*V(9,2) , V(9,2) , IF ( V(16) > 0.5 , V(9,2) , -V(9,2) )) }
Rout 1 7 550 

EVS 99 0 Value={ IF ( V(9)-4 < 1 , 1 , V(9)-4 ) }
XCout 99 0 98     1 2 yx
*     Ctl  Ref Cap+ -
Cref 98 0 1p  
C2 3 2 1000p
M4 9 1 3 3 _M4_mod L=1U W=9.88U 
M5 2 1 3 3 _M5_mod L=1U W=7.296U 
.MODEL _M5_mod PMOS KP=67m RD=.655 VTO=-1.838
.MODEL _M4_mod NMOS KP=35m RD=.428 VTO=1.283
.ENDS
*$
.subckt MIC4421A 4  3   9   2 
*               In Out Vcc Gnd
Rin 4 Vind 2k
C1 4 2 6P
D2 2 Vind DN 
D3 4 9 DN 
RT 4 2 10MEG

Vsctl 13 0   5
XSctl 13 VindH Vind 2 SWhyste PARAMS: VT=1.8 VH=.3 RON=1 ROFF=1G
Rsctl VindH 2 1MEG

I2 9 2   22u Load
R2 9 2 600k
I1 9 8   350U
R4 9 8 150k
D4 8 9 DN 
cpara 8 2 100f
.MODEL DN D Vfwd=0.6 Ron=10m epsilon=100m Roff=1g
EBLin 12 2 Value={ IF ( V(VindH) > 2 , 5 , 0 ) } 
Rind 12 10 100 
Cind 10 11 85p 
Vinput 11 2
GBind 10 2 Value={ IF ( 13.25-V(9) > 0 , 0.3*I(Vinput)*(13.25-V(9)) , 0 ) }
XSinput 8 6 10 2 SWhyste PARAMS: VT=1.9 VH=.65 RON=1 ROFF=1G
Rinput 6 2 6k

XA1 VindH 16 ONESHOTA1 PARAMS: DELAY=25n

EBout 7 3 Value={ IF ( V(8,2) < 0.5*V(9,2) , -V(9,2) , IF ( V(16) > 0.5 , -V(9,2) , V(9,2) )) }
Rout 1 7 550 

EVS 99 0 Value={ IF ( V(9)-4 < 1 , 1 , V(9)-4 ) }
XCout 99 0 98     1 2 yx
*     Ctl  Ref Cap+ -
Cref 98 0 1p  
C2 3 2 1000p
M4 9 1 3 3 _M4_mod L=1U W=9.88U 
M5 2 1 3 3 _M5_mod L=1U W=7.296U 
.MODEL _M5_mod PMOS KP=67m RD=.655 VTO=-1.838
.MODEL _M4_mod NMOS KP=35m RD=.428 VTO=1.283
.ENDS
*$
.subckt MIC4422A 4  3   9   2 
*               In Out Vcc Gnd
Rin 4 Vind 2k
C1 4 2 6P
D2 2 Vind DN 
D3 4 9 DN 
RT 4 2 10MEG

Vsctl 13 0   5
XSctl 13 VindH Vind 2 SWhyste PARAMS: VT=1.8 VH=.3 RON=1 ROFF=1G
Rsctl VindH 2 1MEG

I2 9 2   22u Load
R2 9 2 600k
I1 9 8   350U
R4 9 8 150k
D4 8 9 DN 
cpara 8 2 100f
.MODEL DN D Vfwd=0.6 Ron=10m epsilon=100m Roff=1g
EBLin 12 2 Value={ IF ( V(VindH) > 2 , 5 , 0 ) } 
Rind 12 10 100 
Cind 10 11 85p 
Vinput 11 2
GBind 10 2 Value={ IF ( 13.25-V(9) > 0 , 0.3*I(Vinput)*(13.25-V(9)) , 0 ) }
XSinput 8 6 10 2 SWhyste PARAMS: VT=1.9 VH=.65 RON=1 ROFF=1G
Rinput 6 2 6k

XA1 VindH 16 ONESHOTA1 PARAMS: DELAY=46n

EBout 7 3 Value={ IF ( V(8,2) < 0.5*V(9,2) , V(9,2) , IF ( V(16) > 0.5 , V(9,2) , -V(9,2) )) }
Rout 1 7 550 

EVS 99 0 Value={ IF ( V(9)-4 < 1 , 1 , V(9)-4 ) }
XCout 99 0 98     1 2 yx
*     Ctl  Ref Cap+ -
Cref 98 0 1p  
C2 3 2 1000p
M4 9 1 3 3 _M4_mod L=1U W=9.88U 
M5 2 1 3 3 _M5_mod L=1U W=7.296U 
.MODEL _M5_mod PMOS KP=67m RD=.655 VTO=-1.838
.MODEL _M4_mod NMOS KP=35m RD=.428 VTO=1.283
.ENDS
*$
.subckt MIC4423 4  3   9   2 
*               In Out Vcc Gnd
Rin 4 Vind 2k
C1 4 2 6P
D2 2 Vind DN 
D3 4 9 DN 
RT 4 2 10MEG

Vsctl 13 0   5
XSctl 13 VindH Vind 2 SWhyste PARAMS: VT=2.3 VH=.1 RON=1 ROFF=1G
Rsctl VindH 2 1MEG

I2 9 2   44u Load
R2 9 2 560k 
I1 9 8   510U  
R4 9 8 88k 
D4 8 9 DN 
cpara 8 2 100f
.MODEL DN D Vfwd=0.6 Ron=10m epsilon=100m Roff=1g
EBLin 12 2 Value={ IF ( V(VindH) > 2 , 5 , 0 ) } 
Rind 12 10 100 
Cind 10 11 55p 
Vinput 11 2
GBind 10 2 Value={ IF ( 16-V(9) > 0 , 0.3*I(Vinput)*(16-V(9)) , 0 ) }
XSinput 8 6 10 2 SWhyste PARAMS: VT=1.9 VH=.65 RON=1 ROFF=1G
Rinput 6 2 3k

XA1 VindH 16 ONESHOTA1 PARAMS: DELAY=510n

EBout 7 3 Value={ IF ( V(8,2) < 0.5*V(9,2) , -V(9,2) , IF ( V(16) > 0.5 , -V(9,2) , V(9,2) )) }
Rout 1 7 650 
EVS 99 0 Value={ IF ( (V(9)+4) < 1 , 1 , (V(9)+4) ) }
XCout 99 0 98     1 2 yx
*     Ctl  Ref Cap+ -
Cref 98 0 1p  

C2 3 2 1000p
M4 9 1 3 3 _M4_mod L=1U W=1.46U
M5 2 1 3 3 _M5_mod L=1U W=2.685U
.MODEL _M5_mod PMOS KP=60m RD=2.43 VTO=-1.043
.MODEL _M4_mod NMOS KP=58m RD=1.487 VTO=0.977
.ENDS 
*$
.subckt MIC4424 4  3   9   2 
*               In Out Vcc Gnd
Rin 4 Vind 2k
C1 4 2 6P
D2 2 Vind DN 
D3 4 9 DN 
RT 4 2 10MEG

Vsctl 13 0   5
XSctl 13 VindH Vind 2 SWhyste PARAMS: VT=2.3 VH=.1 RON=1 ROFF=1G
Rsctl VindH 2 1MEG

I2 9 2   44u Load
R2 9 2 560k 
I1 9 8   510U 
R4 9 8 88k 
D4 8 9 DN 
cpara 8 2 100f
.MODEL DN D Vfwd=0.6 Ron=10m epsilon=100m Roff=1g
EBLin 12 2 Value={ IF ( V(VindH) > 2 , 5 , 0 ) } 
Rind 12 10 100 
Cind 10 11 55p 
Vinput 11 2
GBind 10 2 Value={ IF ( 16-V(9) > 0 , 0.3*I(Vinput)*(16-V(9)) , 0 ) }
XSinput 8 6 10 2 SWhyste PARAMS: VT=1.9 VH=.65 RON=1 ROFF=1G
Rinput 6 2 3k

XA1 VindH 16 ONESHOTA1 PARAMS: DELAY=473n

EBout 7 3 Value={ IF ( V(8,2) < 0.5*V(9,2) , V(9,2) , IF ( V(16) > 0.5 , V(9,2) , -V(9,2) )) }
Rout 1 7 650 
EVS 99 0 Value={ IF ( (V(9)+4) < 1 , 1 , (V(9)+4) ) }
XCout 99 0 98     1 2 yx
*     Ctl  Ref Cap+ -
Cref 98 0 1p  

C2 3 2 1000p
M4 9 1 3 3 _M4_mod L=1U W=1.46U
M5 2 1 3 3 _M5_mod L=1U W=2.685U
.MODEL _M5_mod PMOS KP=60m RD=2.43 VTO=-1.043
.MODEL _M4_mod NMOS KP=58m RD=1.487 VTO=0.977
.ENDS
*$
.subckt MIC4451 4  3   9   2 
*               In Out Vcc Gnd
Rin 4 Vind 2k
C1 4 2 6P
D2 2 Vind DN 
D3 4 9 DN 
RT 4 2 10MEG

Vsctl 13 0   5
XSctl 13 VindH Vind 2 SWhyste PARAMS: VT=1.2 VH=.1 RON=1 ROFF=1G
Rsctl VindH 2 1MEG

I2 9 2   50u Load
R2 9 2 600k 
I1 9 8   215U 
R4 9 8 150k 
D4 8 9 DN 
cpara 8 2 100f
.MODEL DN D Vfwd=0.6 Ron=10m epsilon=100m Roff=1g
EBLin 12 2 Value={ IF ( V(VindH) > 2 , 5 , 0 ) } 
Rind 12 10 100 
Cind 10 11 85p 
Vinput 11 2
GBind 10 2 Value={ IF ( 12-V(9) > 0 , 0.3*I(Vinput)*(12-V(9)) , 0 ) }
XSinput 8 6 10 2 SWhyste PARAMS: VT=1.9 VH=.65 RON=1 ROFF=1G
Rinput 6 2 6k

XA1 VindH 16 ONESHOTA1 PARAMS: DELAY=510n

EBout 7 3 Value={ IF ( V(8,2) < 0.5*V(9,2) , -V(9,2) , IF ( V(16) > 0.5 , -V(9,2) , V(9,2) )) }
Rout 1 7 500 

EVS 99 0 Value={ IF ( V(9)-4 < 1 , 1 , V(9)-4 ) }
XCout 99 0 98     1 2 yx
*     Ctl  Ref Cap+ -
Cref 98 0 1p  

C2 3 2 1500p
MHS 9 1 3 3 _MHS_mod L=1U W=3.45u 
MLS 2 1 3 3 _MLS_mod L=1U W=4.352u  
.MODEL _MLS_mod PMOS KP=0.077 VTO=-1.3 RD=.565
.MODEL _MHS_mod NMOS KP=.074 VTO=.015 RD=.372
.ENDS
*$
.subckt MIC4452 4  3   9   2 
*               In Out Vcc Gnd
Rin 4 Vind 2k
C1 4 2 6P
D2 2 Vind DN 
D3 4 9 DN 
RT 4 2 10MEG

Vsctl 13 0   5
XSctl 13 VindH Vind 2 SWhyste PARAMS: VT=1.2 VH=.1 RON=1 ROFF=1G
Rsctl VindH 2 1MEG

I2 9 2   50u Load
R2 9 2 600k 
I1 9 8   215U
R4 9 8 150k 
D4 8 9 DN 
cpara 8 2 100f
.MODEL DN D Vfwd=0.6 Ron=10m epsilon=100m Roff=1g
EBLin 12 2 Value={ IF ( V(VindH) > 2 , 5 , 0 ) } 
Rind 12 10 100 
Cind 10 11 85p 
Vinput 11 2
GBind 10 2 Value={ IF ( 12-V(9) > 0 , 0.3*I(Vinput)*(12-V(9)) , 0 ) }
XSinput 8 6 10 2 SWhyste PARAMS: VT=1.9 VH=.65 RON=1 ROFF=1G
Rinput 6 2 6k

XA1 VindH 16 ONESHOTA1 PARAMS: DELAY=473n

EBout 7 3 Value={ IF ( V(8,2) < 0.5*V(9,2) , V(9,2) , IF ( V(16) > 0.5 , V(9,2) , -V(9,2) )) }
Rout 1 7 500 

EVS 99 0 Value={ IF ( V(9)-4 < 1 , 1 , V(9)-4 ) }
XCout 99 0 98     1 2 yx
*     Ctl  Ref Cap+ -
Cref 98 0 1p  

C2 3 2 1500p
MHS 9 1 3 3 _MHS_mod L=1U W=3.45u 
MLS 2 1 3 3 _MLS_mod L=1U W=4.352u  
.MODEL _MLS_mod PMOS KP=0.077 VTO=-1.3 RD=.565
.MODEL _MHS_mod NMOS KP=.074 VTO=.015 RD=.372
.ENDS
*$
* Variable admittance: Yout = Yref * V
*           control input: voltage
*           |  reference capacitor/conductance (connect other lead to ground)
*          / \ |  output: floating admittance
*          + - | / \
.subckt yx 1 2 3 4 5
  ecopy  3 6 poly(2) (1,2) (4,5) 0 0 0 0 1
  fout   4 5 vsense 1
  rin    1 2 1G
  vsense 0 6 0
.ends
*$
.subckt SWhyste NodeMinus NodePlus Plus Minus PARAMS: RON=1 ROFF=100MEG VT=1.5 VH=.5
S5 NodePlus NodeMinus plus  minus  SW
.model SW sw (RON={RON} ROFF={ROFF} Vt={vt} Vt={vt})
.ends SWhyste
*$
.SUBCKT ONESHOTA1 In Out PARAMS: DELAY=473n
R3 1 0 10k
C3 1 2 10pF
X2 Out 4 DLOS PARAMS: TD={DELAY}
X9 4 5 INVOS
X10 1 6 Out Qbb LATCHOS
R4 0 6 10k
C4 7 6 10pF
X11 5 Out 7 NAND2OS
X12 In 8 2 AND2OS
R5 8 Qbb 100
C5 8 0 100p
.ENDS
.SUBCKT DLOS 1 2 PARAMS: TD=473n
*
RIN 1 0 1E15
B 0 2 i=delay(v(1),td) Rpar=1 Cpar=100p
.ENDS
.SUBCKT INVOS 1 2
A1 1 0 0 0 0 2 0 0 BUF Rout=100 Cout=10p REF=0.35 Vhigh=5 td=1n
.ENDS
*
.SUBCKT NAND2OS 1 2 3
A1 1 2 0 0 0 3 0 0 AND Rout=100 Cout=10p REF=0.35 Vhigh=5 td=1n
.ENDS
.SUBCKT AND2OS 1 2 3
A1 1 2 0 0 0 0 3 0 AND Rout=100 Cout=10p REF=0.35 Vhigh=5 td=1n
.ENDS
*$
.SUBCKT LATCHOS 6 8 2 1
*             S R Q Q\
BQB 0 10  i =  IF (      (V(8)<300M) & (V(2)>300M), 0, 5 )  rpar=1 cpar=5n ic=5
BQ  0 20    i= IF (        (V(6)<300M) & (V(1)>300M), 0, 5 )  rpar=1 cpar=5n
RD1   10 1 100
CD1   1 0 10P IC=5
RD2   20 2 100
CD2   2 0 10P IC=0
.ENDS
.SUBCKT ONESHOTA1 In Out PARAMS: DELAY=473n
R3 1 0 10k
C3 1 2 10pF
X2 Out 4 DLOS PARAMS: TD={DELAY}
*+++ X9 4 5 INV -> X9 4 5 INVOS
X9 4 5 INVOS
X10 1 6 Out Qbb LATCHOS
R4 0 6 10k
C4 7 6 10pF
X11 5 Out 7 NAND2OS
X12 In 8 2 AND2OS
R5 8 Qbb 100
C5 8 0 100p
.ENDS
.SUBCKT DLOS 1 2 PARAMS: TD=473n
*
RIN 1 0 1E15
E1 3 0 1 0 1
T1 3 0 2 0 Z0=1 TD={TD}
R1 2 0 1
.ENDS
.SUBCKT INVOS 1 2
EB1 4 0 VALUE = { IF ( V(1)>300M, 0, 5V ) }
RD 4 2 100
CD 2 0 10P
.ENDS

